US05672593
1,2-Bis(methyltriazeno)ethane
A flask is charged with 5.0 g (27 mmole) of 1,2-dibromoethane, 3.8 g (58 mmole) of sodium azide, and 50 ml of DMF. The mixture is heated at 50° C. with stirring under argon overnight. The mixture is worked up as described above, except that the azide solution is not evaporated down totally. When about 30 ml of solution remains the mixture is treated with 45 ml of a 1.3M solution of MeLi (58 mmole) as above. After 3 hr the reaction is worked up as described above, and a yellow solid is obtained. Crystallization from ether/petroleum ether affords 1.23 g (32% yield) of an off-white solid, mp 64°-6° C. Mass spectra (FAB) Calc (M+H) 145.1201, Found 145.1220±0.0015.

reactant | 1,2-dibromoethane | 27 mmole, 5.0 g | BrCCBr | C2H4Br2
reactant | sodium azide | 58 mmole, 3.8 g | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
reactant | MeLi | 58 mmole | [Li]C
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1,2-Bis(methyltriazeno)ethane | 1.23 g, 32% yield | CNN=NCCN=NNC | C4H12N6
